US04760163
using isopropyl 2-chloro-4-fluoro-5-ureidobenzoate and ethyl 3-oxo-n-valerate and finely powdered Amberlyst®-15 (an organic polymeric resin featuring free sulphone groups) as catalyst there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethylvinyl]ureido}-benzoate, m.p. 123°-126° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-ureidobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)N | C11H12ClFN2O3
reactant | ethyl 3-oxo-n-valerate | CCC(=O)CC(=O)OCC | C7H12O3
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethylvinyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=CC(=O)OCC)CC | C18H22ClFN2O5
